US07223776B2
18.a) 4-Amino-1-[2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethyl]-cyclohexanol
Sodium triacetoxyborohydride (1.89 g, 8.75 mmol) was added to a solution of 4-hydroxy-4-[2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethyl]-cyclohexanone (3 g, 8.5 mmol) and ammonium acetate (25.5 g) in methanol (65 ml). The reaction mixture was stirred at room temperature for 3 hours, 0.5 g of sodium triacetoxyborohydride was added and stirring was continued for a further 2 hours. The reaction mixture was diluted with NH4OH and extracted with EtOAc and dichloromethane. Organic phases were dried over MgSO4 and concentrated.

reactant | Sodium triacetoxyborohydride | 8.75 mmol, 1.89 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-hydroxy-4-[2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethyl]-cyclohexanone | 8.5 mmol, 3 g | OC1(CCC(CC1)=O)CCC1=CC=NC2=CC=C(N=C12)OC | C17H20N2O3
reactant | ammonium acetate | 25.5 g | C(C)(=O)[O-].[NH4+]
reactant | sodium triacetoxyborohydride | 0.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 65 ml | CO | CH4O
solvent | NH4OH | [NH4+].[OH-]
product | 4-Amino-1-[2-(6-methoxy-[1,5]naphthyridin-4-yl)-ethyl]-cyclohexanol | NC1CCC(CC1)(O)CCC1=CC=NC2=CC=C(N=C12)OC | C17H23N3O2
